US07951815B2
1,3-(S)-dibenzyl-8-(2,3-difluorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one (370 mg, 0.8 mmol) was dissolved in ethyl methyl ketone (2.9 mL), water (8 μL), ether (30 mL) and TMSCl (108 μL) were added and the mixture was stirred overnight. The solid matter was isolated by filtration, washed with ether, and dried in vacuo. The product 1,3-(S)-dibenzyl-8-(2,3-difluorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 317 mg (80%).

reactant | 1,3-(S)-dibenzyl-8-(2,3-difluorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one | 0.8 mmol, 370 mg | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=C(C(=CC=C2)F)F)=O)CC2=CC=CC=C2)=O | C28H27F2N3O2
reactant | water | 8 μL | O | H2O
reactant | ether | 30 mL | CCOCC | C4H10O
reactant | TMSCl | 108 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 2.9 mL | CC(=O)CC | C4H8O
product | 1,3-(S)-dibenzyl-8-(2,3-difluorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=C(C(=CC=C2)F)F)=O)CC2=CC=CC=C2)=O | InChI=1S/C28H27F2N3O2.ClH/c29-23-13-7-12-22(25(23)30)26(34)32-16-14-28(15-17-32)31-24(18-20-8-3-1-4-9-20)27(35)33(28)19-21-10-5-2-6-11-21;/h1-13,24,31H,14-19H2;1H/t24-;/m0./s1
